* Two questions this block cannot be laid out without answering:
*  1. Does the vg it produces actually reproduce the cell output current
*     through a gamma MDAC leg?  (a wrong diode = a silently wrong weight)
*  2. Can the W=24 L=8 pedestals shrink at constant W/L, as the OTA tail
*     did?  Here the source faces a SWINGING node, so its ro is a
*     linearity term -- the OTA-tail argument does NOT transfer for free.
.lib /Users/cteusche/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include chainglue.inc

.param wp=24 lp=8
.subckt glue_p vdd VSUB pbias vcasc nout nu_next vg wp=24 lp=8
XPU nu_next pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W='wp' L='lp'
XPO nout    pbias vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W='wp' L='lp'
XGDG nout nout VSUB VSUB sky130_fd_pr__nfet_g5v0d10v5 W=16 L=2
XGML vg   nout VSUB VSUB sky130_fd_pr__nfet_g5v0d10v5 W=16 L=2
XID nid vg    vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=8 L=2
XIC vg  vcasc nid vdd sky130_fd_pr__pfet_g5v0d10v5 W=8 L=1
.ends

VDD vdd 0 3.3
VSS VSUB 0 0
VC  vcasc 0 0.85
* pbias: the real tree's W/L=2 diode leg
IB pb 0 2u
XPB pb pb vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=16 L=8

* cell output modelled as a current sink over the chain's real range
.param iout=2u
IOUT nout 0 'iout'
* the next cell's input node, swept to expose pedestal ro
VNU nu_next 0 1.2
XG vdd VSUB pb vcasc nout nu_next vg glue_p wp='wp' lp='lp'

* one gamma-MDAC unit leg on vg, cascoded exactly as mdac_digit does,
* so we read the current the MDAC would actually deliver
XL s0 vg  vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=8 L=2
XK n0 vcasc s0 vdd sky130_fd_pr__pfet_g5v0d10v5 W=8 L=1
VRD n0 0 0.9

.control
set filetype=ascii
* --- 1. does vg reproduce the output current across the real range? ---
echo > glue_track.txt
* unrolled: alterparam takes a literal, not an expression over a control
* variable ("Formula() error")
foreach ii 0.5u 1.2u 1.9u 2.6u 3.3u 4.0u
  alterparam iout = $ii
  reset
  op
  echo $ii $&i(VRD) $&v(vg) >> glue_track.txt
end
* --- 2. pedestal ro: sweep the node the pedestal drives ---
alterparam iout = 2u
alterparam wp = 24
alterparam lp = 8
reset
dc VNU 0.4 2.2 0.05
wrdata glue_ped_L8.csv i(VNU)
alterparam wp = 6
alterparam lp = 2
reset
dc VNU 0.4 2.2 0.05
wrdata glue_ped_L2.csv i(VNU)
echo GLUE_DONE
.endc
.end
